* NGSPICE file created from ADC_validpin.ext - technology: sky130A

.subckt x5v_nfet_1_2 B D G S
X0 D G S B sky130_fd_pr__nfet_g5v0d10v5 ad=2 pd=6 as=2 ps=6 w=2 l=1
.ends

.subckt x5v_pfet_1_2 B D G S
X0 D G S B sky130_fd_pr__pfet_g5v0d10v5 ad=2 pd=6 as=2 ps=6 w=2 l=1
.ends

.subckt NAND5v A B VDD VSS Y
X5v_nfet_1_2_0 VSS Y A 5v_nfet_1_2_1/D x5v_nfet_1_2
X5v_nfet_1_2_1 VSS 5v_nfet_1_2_1/D B VSS x5v_nfet_1_2
X5v_pfet_1_2_0 VDD Y A VDD x5v_pfet_1_2
X5v_pfet_1_2_1 VDD Y B VDD x5v_pfet_1_2
.ends

.subckt SRLatch5V S R Q NQ VDD VSS
XNAND5v_0 Q R VDD VSS NQ NAND5v
XNAND5v_1 S NQ VDD VSS Q NAND5v
.ends

.subckt x5v_nfet_1_6 S G D B
X0 D G S B sky130_fd_pr__nfet_g5v0d10v5 ad=18 pd=18 as=18 ps=18 w=6 l=1
.ends

.subckt x5v_nfet_1_1 S B G D
X0 D G S B sky130_fd_pr__nfet_g5v0d10v5 ad=1 pd=4 as=1 ps=4 w=1 l=1
.ends

.subckt shift1v8to5 A V1v8 Y VN VP
X5v_nfet_1_6_0 VN A 5v_pfet_1_2_2/D VN x5v_nfet_1_6
X5v_nfet_1_6_1 VN 5v_pfet_1_2_0/D Y VN x5v_nfet_1_6
X5v_pfet_1_2_0 V1v8 5v_pfet_1_2_0/D A V1v8 x5v_pfet_1_2
X5v_pfet_1_2_1 VP Y 5v_pfet_1_2_2/D VP x5v_pfet_1_2
X5v_pfet_1_2_2 VP 5v_pfet_1_2_2/D Y VP x5v_pfet_1_2
X5v_nfet_1_1_0 VN VN A 5v_pfet_1_2_0/D x5v_nfet_1_1
.ends

.subckt polyR_2_10 Top Bot GND
X0 Top Bot GND sky130_fd_pr__res_xhigh_po w=2 l=10.01
.ends

.subckt OR2 A B Y VP VN
X0 a_100_310# B VP VP sky130_fd_pr__pfet_01v8 ad=0.5 pd=4.25 as=1.4 ps=8.7 w=4 l=0.5
X1 VN B a_n80_n540# VN sky130_fd_pr__nfet_01v8 ad=0.2 pd=1.4 as=0.4 ps=2.8 w=1 l=0.5
X2 a_n80_n540# A VN VN sky130_fd_pr__nfet_01v8 ad=0.4 pd=2.8 as=0.2 ps=1.4 w=1 l=0.5
X3 a_n80_n540# A a_100_310# VP sky130_fd_pr__pfet_01v8 ad=1.4 pd=8.7 as=0.5 ps=4.25 w=4 l=0.5
X4 Y a_n80_n540# VN VN sky130_fd_pr__nfet_01v8 ad=0.4 pd=2.8 as=0.4 ps=2.8 w=1 l=0.5
X5 Y a_n80_n540# VP VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.8 as=0.8 ps=4.8 w=2 l=0.5
.ends

.subckt x2_1_MUX A B S Y VP VN
X0 Y a_n1230_n310# A VN sky130_fd_pr__nfet_01v8 ad=1.35 pd=6.9 as=1.35 ps=6.9 w=3 l=0.5
X1 Y S A VP sky130_fd_pr__pfet_01v8 ad=1.35 pd=6.9 as=1.35 ps=6.9 w=3 l=0.5
X2 a_n1230_n310# S VP VP sky130_fd_pr__pfet_01v8 ad=0.9 pd=4.9 as=0.9 ps=4.9 w=2 l=0.5
X3 a_n1230_n310# S VN VN sky130_fd_pr__nfet_01v8 ad=0.45 pd=2.9 as=0.45 ps=2.9 w=1 l=0.5
X4 B a_n1230_n310# Y VP sky130_fd_pr__pfet_01v8 ad=1.35 pd=6.9 as=1.35 ps=6.9 w=3 l=0.5
X5 B S Y VN sky130_fd_pr__nfet_01v8 ad=1.35 pd=6.9 as=1.35 ps=6.9 w=3 l=0.5
.ends

.subckt DFFR PHIA PHIB D Q RST_N VP VN
X0 a_2090_n400# a_n50_n400# a_450_n400# VP sky130_fd_pr__pfet_01v8 ad=1.5 pd=7 as=1.2 ps=6.8 w=3 l=0.5
X1 VP a_2090_n400# a_2600_n430# VP sky130_fd_pr__pfet_01v8 ad=0.4 pd=2.4 as=0.8 ps=4.8 w=2 l=0.5
X2 VN PHIB a_n420_n400# VN sky130_fd_pr__nfet_01v8 ad=0.225 pd=1.45 as=0.4 ps=2.8 w=1 l=0.5
X3 a_2550_n400# a_n50_n400# a_2090_n400# VN sky130_fd_pr__nfet_01v8 ad=0.125 pd=1.25 as=0.4 ps=2.8 w=1 l=0.5
X4 VN a_2600_n430# a_2550_n400# VN sky130_fd_pr__nfet_01v8 ad=0.2 pd=1.4 as=0.125 ps=1.25 w=1 l=0.5
X5 a_1460_n400# a_450_n400# a_1310_n400# VN sky130_fd_pr__nfet_01v8 ad=0.375 pd=3.25 as=0.375 ps=3.25 w=3 l=0.5
X6 a_350_n430# a_n420_n400# a_1460_n400# VN sky130_fd_pr__nfet_01v8 ad=1.2 pd=6.8 as=0.375 ps=3.25 w=3 l=0.5
X7 VN RST_N a_3210_n400# VN sky130_fd_pr__nfet_01v8 ad=0.8 pd=4.8 as=0.25 ps=2.25 w=2 l=0.5
X8 a_90_n400# PHIB a_350_n430# VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=7 as=1.2 ps=6.8 w=3 l=0.5
X9 a_n50_n400# PHIA VP VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.8 as=0.45 ps=2.45 w=2 l=0.5
X10 a_n50_n400# PHIA VN VN sky130_fd_pr__nfet_01v8 ad=0.4 pd=2.8 as=0.225 ps=1.45 w=1 l=0.5
X11 a_2550_720# PHIA a_2090_n400# VP sky130_fd_pr__pfet_01v8 ad=0.25 pd=2.25 as=0.8 ps=4.8 w=2 l=0.5
X12 a_350_n430# PHIB a_1130_520# VP sky130_fd_pr__pfet_01v8 ad=1.615 pd=8.9 as=0.8 ps=4.4 w=4 l=0.5
X13 a_1130_520# a_450_n400# VP VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.4 as=0.8 ps=4.4 w=4 l=0.5
X14 Q a_2600_n430# VN VN sky130_fd_pr__nfet_01v8 ad=0.4 pd=2.8 as=0.2 ps=1.4 w=1 l=0.5
X15 Q a_2600_n430# VP VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.8 as=0.4 ps=2.4 w=2 l=0.5
X16 a_90_n400# a_n420_n400# a_350_n430# VP sky130_fd_pr__pfet_01v8 ad=1.5 pd=7 as=1.2 ps=6.8 w=3 l=0.5
X17 a_2600_n430# RST_N VP VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.8 as=0.4 ps=2.4 w=2 l=0.5
X18 a_450_n400# a_350_n430# VP VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.8 as=0.4 ps=2.4 w=2 l=0.5
X19 VP RST_N a_1130_520# VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.4 as=1.6 ps=8.8 w=4 l=0.5
X20 VN D a_90_n400# VN sky130_fd_pr__nfet_01v8 ad=0.2 pd=1.4 as=0.4 ps=2.8 w=1 l=0.5
X21 a_2090_n400# PHIA a_450_n400# VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=7 as=1.2 ps=6.8 w=3 l=0.5
X22 VP D a_90_n400# VP sky130_fd_pr__pfet_01v8 ad=0.4 pd=2.4 as=0.8 ps=4.8 w=2 l=0.5
X23 a_450_n400# a_350_n430# VN VN sky130_fd_pr__nfet_01v8 ad=0.4 pd=2.8 as=0.2 ps=1.4 w=1 l=0.5
X24 a_1310_n400# RST_N VN VN sky130_fd_pr__nfet_01v8 ad=0.375 pd=3.25 as=1.2 ps=6.8 w=3 l=0.5
X25 VP PHIB a_n420_n400# VP sky130_fd_pr__pfet_01v8 ad=0.45 pd=2.45 as=0.8 ps=4.8 w=2 l=0.5
X26 a_3210_n400# a_2090_n400# a_2600_n430# VN sky130_fd_pr__nfet_01v8 ad=0.25 pd=2.25 as=0.8 ps=4.8 w=2 l=0.5
X27 VP a_2600_n430# a_2550_720# VP sky130_fd_pr__pfet_01v8 ad=0.4 pd=2.4 as=0.25 ps=2.25 w=2 l=0.5
.ends

.subckt DFFRR PHIA PHIB D Q RST_N RST VP VN
X0 a_n420_720# D VP VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.8 as=0.4 ps=2.4 w=2 l=0.5
X1 a_2090_n400# a_n560_n400# a_450_n400# VP sky130_fd_pr__pfet_01v8 ad=1.5 pd=7 as=1.2 ps=6.8 w=3 l=0.5
X2 a_n420_720# D a_n240_n400# VN sky130_fd_pr__nfet_01v8 ad=0.8 pd=4.8 as=0.25 ps=2.25 w=2 l=0.5
X3 VP a_2090_n400# a_2600_n430# VP sky130_fd_pr__pfet_01v8 ad=0.4 pd=2.4 as=0.8 ps=4.8 w=2 l=0.5
X4 a_n240_n400# a_n340_n430# VN VN sky130_fd_pr__nfet_01v8 ad=0.25 pd=2.25 as=0.8 ps=4.8 w=2 l=0.5
X5 a_2550_n400# a_n560_n400# a_2090_n400# VN sky130_fd_pr__nfet_01v8 ad=0.125 pd=1.25 as=0.4 ps=2.8 w=1 l=0.5
X6 VN a_2600_n430# a_2550_n400# VN sky130_fd_pr__nfet_01v8 ad=0.2 pd=1.4 as=0.125 ps=1.25 w=1 l=0.5
X7 a_1460_n400# a_450_n400# a_1310_n400# VN sky130_fd_pr__nfet_01v8 ad=0.375 pd=3.25 as=0.375 ps=3.25 w=3 l=0.5
X8 a_350_n430# a_n930_n400# a_1460_n400# VN sky130_fd_pr__nfet_01v8 ad=1.2 pd=6.8 as=0.375 ps=3.25 w=3 l=0.5
X9 VP PHIB a_n930_n400# VP sky130_fd_pr__pfet_01v8 ad=0.45 pd=2.45 as=0.8 ps=4.8 w=2 l=0.5
X10 VN RST_N a_3210_n400# VN sky130_fd_pr__nfet_01v8 ad=0.8 pd=4.8 as=0.25 ps=2.25 w=2 l=0.5
X11 a_n420_720# PHIB a_350_n430# VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=7 as=1.2 ps=6.8 w=3 l=0.5
X12 a_2550_720# PHIA a_2090_n400# VP sky130_fd_pr__pfet_01v8 ad=0.25 pd=2.25 as=0.8 ps=4.8 w=2 l=0.5
X13 a_350_n430# PHIB a_1130_520# VP sky130_fd_pr__pfet_01v8 ad=1.615 pd=8.9 as=0.8 ps=4.4 w=4 l=0.5
X14 a_1130_520# a_450_n400# VP VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.4 as=0.8 ps=4.4 w=4 l=0.5
X15 Q a_2600_n430# VN VN sky130_fd_pr__nfet_01v8 ad=0.4 pd=2.8 as=0.2 ps=1.4 w=1 l=0.5
X16 a_n560_n400# PHIA VP VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.8 as=0.45 ps=2.45 w=2 l=0.5
X17 VN PHIB a_n930_n400# VN sky130_fd_pr__nfet_01v8 ad=0.225 pd=1.45 as=0.4 ps=2.8 w=1 l=0.5
X18 Q a_2600_n430# VP VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.8 as=0.4 ps=2.4 w=2 l=0.5
X19 a_n420_720# a_n930_n400# a_350_n430# VP sky130_fd_pr__pfet_01v8 ad=1.5 pd=7 as=1.2 ps=6.8 w=3 l=0.5
X20 a_2600_n430# RST_N VP VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.8 as=0.4 ps=2.4 w=2 l=0.5
X21 a_450_n400# a_350_n430# VP VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.8 as=0.4 ps=2.4 w=2 l=0.5
X22 a_n560_n400# PHIA VN VN sky130_fd_pr__nfet_01v8 ad=0.4 pd=2.8 as=0.225 ps=1.45 w=1 l=0.5
X23 VP RST_N a_1130_520# VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.4 as=1.6 ps=8.8 w=4 l=0.5
X24 VN RST a_n340_n430# VN sky130_fd_pr__nfet_01v8 ad=0.2 pd=1.4 as=0.4 ps=2.8 w=1 l=0.5
X25 a_2090_n400# PHIA a_450_n400# VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=7 as=1.2 ps=6.8 w=3 l=0.5
X26 VP RST a_n340_n430# VP sky130_fd_pr__pfet_01v8 ad=0.4 pd=2.4 as=0.8 ps=4.8 w=2 l=0.5
X27 a_450_n400# a_350_n430# VN VN sky130_fd_pr__nfet_01v8 ad=0.4 pd=2.8 as=0.2 ps=1.4 w=1 l=0.5
X28 a_1310_n400# RST_N VN VN sky130_fd_pr__nfet_01v8 ad=0.375 pd=3.25 as=1.2 ps=6.8 w=3 l=0.5
X29 VP a_n340_n430# a_n420_720# VP sky130_fd_pr__pfet_01v8 ad=0.4 pd=2.4 as=0.8 ps=4.8 w=2 l=0.5
X30 a_3210_n400# a_2090_n400# a_2600_n430# VN sky130_fd_pr__nfet_01v8 ad=0.25 pd=2.25 as=0.8 ps=4.8 w=2 l=0.5
X31 VP a_2600_n430# a_2550_720# VP sky130_fd_pr__pfet_01v8 ad=0.4 pd=2.4 as=0.25 ps=2.25 w=2 l=0.5
.ends

.subckt AND2 A B Y VDD GND
X0 a_90_n200# B GND GND sky130_fd_pr__nfet_01v8 ad=0.25 pd=2.25 as=0.8 ps=4.8 w=2 l=0.5
X1 a_n100_1100# A a_90_n200# GND sky130_fd_pr__nfet_01v8 ad=0.8 pd=4.8 as=0.25 ps=2.25 w=2 l=0.5
X2 Y a_n100_1100# GND GND sky130_fd_pr__nfet_01v8 ad=0.4 pd=2.8 as=0.4 ps=2.8 w=1 l=0.5
X3 VDD B a_n100_1100# VDD sky130_fd_pr__pfet_01v8 ad=0.45 pd=2.45 as=0.9 ps=4.9 w=2 l=0.5
X4 a_n100_1100# A VDD VDD sky130_fd_pr__pfet_01v8 ad=0.9 pd=4.9 as=0.45 ps=2.45 w=2 l=0.5
X5 Y a_n100_1100# VDD VDD sky130_fd_pr__pfet_01v8 ad=0.804 pd=4.82 as=0.804 ps=4.82 w=2.01 l=0.5
.ends

.subckt DFFS PHIA PHIB D Q SET_N VP VN
X0 a_2090_n400# a_n50_n400# a_350_n430# VP sky130_fd_pr__pfet_01v8 ad=1.5 pd=7 as=1.2 ps=6.8 w=3 l=0.5
X1 VP a_600_n400# a_2090_n400# VP sky130_fd_pr__pfet_01v8 ad=0.4 pd=2.4 as=0.8 ps=4.8 w=2 l=0.5
X2 VN PHIB a_n420_n400# VN sky130_fd_pr__nfet_01v8 ad=0.225 pd=1.45 as=0.4 ps=2.8 w=1 l=0.5
X3 a_2550_n400# a_n420_n400# a_600_n400# VN sky130_fd_pr__nfet_01v8 ad=0.125 pd=1.25 as=0.4 ps=2.8 w=1 l=0.5
X4 VN a_2090_n400# a_2550_n400# VN sky130_fd_pr__nfet_01v8 ad=0.2 pd=1.4 as=0.125 ps=1.25 w=1 l=0.5
X5 a_1460_n400# a_450_n400# a_1310_n400# VN sky130_fd_pr__nfet_01v8 ad=0.375 pd=3.25 as=0.375 ps=3.25 w=3 l=0.5
X6 a_350_n430# a_n50_n400# a_1460_n400# VN sky130_fd_pr__nfet_01v8 ad=1.2 pd=6.8 as=0.375 ps=3.25 w=3 l=0.5
X7 VN SET_N a_3210_n400# VN sky130_fd_pr__nfet_01v8 ad=0.8 pd=4.8 as=0.25 ps=2.25 w=2 l=0.5
X8 a_90_n400# PHIB a_600_n400# VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=7 as=1.2 ps=6.8 w=3 l=0.5
X9 a_n50_n400# PHIA VP VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.8 as=0.45 ps=2.45 w=2 l=0.5
X10 a_n50_n400# PHIA VN VN sky130_fd_pr__nfet_01v8 ad=0.4 pd=2.8 as=0.225 ps=1.45 w=1 l=0.5
X11 a_2550_720# PHIB a_600_n400# VP sky130_fd_pr__pfet_01v8 ad=0.25 pd=2.25 as=0.8 ps=4.8 w=2 l=0.5
X12 a_350_n430# PHIA a_1130_520# VP sky130_fd_pr__pfet_01v8 ad=1.6 pd=8.8 as=0.8 ps=4.4 w=4 l=0.5
X13 a_1130_520# a_450_n400# VP VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.4 as=0.8 ps=4.4 w=4 l=0.5
X14 Q a_450_n400# VN VN sky130_fd_pr__nfet_01v8 ad=0.4 pd=2.8 as=0.2 ps=1.4 w=1 l=0.5
X15 Q a_450_n400# VP VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.8 as=0.4 ps=2.4 w=2 l=0.5
X16 a_90_n400# a_n420_n400# a_600_n400# VP sky130_fd_pr__pfet_01v8 ad=1.5 pd=7 as=1.2 ps=6.8 w=3 l=0.5
X17 a_2090_n400# SET_N VP VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.8 as=0.4 ps=2.4 w=2 l=0.5
X18 a_450_n400# a_350_n430# VP VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.8 as=0.4 ps=2.4 w=2 l=0.5
X19 VP SET_N a_1130_520# VP sky130_fd_pr__pfet_01v8 ad=0.8 pd=4.4 as=1.6 ps=8.8 w=4 l=0.5
X20 VN D a_90_n400# VN sky130_fd_pr__nfet_01v8 ad=0.2 pd=1.4 as=0.4 ps=2.8 w=1 l=0.5
X21 a_2090_n400# PHIA a_350_n430# VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=7 as=1.2 ps=6.8 w=3 l=0.5
X22 VP D a_90_n400# VP sky130_fd_pr__pfet_01v8 ad=0.4 pd=2.4 as=0.8 ps=4.8 w=2 l=0.5
X23 a_450_n400# a_350_n430# VN VN sky130_fd_pr__nfet_01v8 ad=0.4 pd=2.8 as=0.2 ps=1.4 w=1 l=0.5
X24 a_1310_n400# SET_N VN VN sky130_fd_pr__nfet_01v8 ad=0.375 pd=3.25 as=1.2 ps=6.8 w=3 l=0.5
X25 VP PHIB a_n420_n400# VP sky130_fd_pr__pfet_01v8 ad=0.45 pd=2.45 as=0.8 ps=4.8 w=2 l=0.5
X26 a_3210_n400# a_600_n400# a_2090_n400# VN sky130_fd_pr__nfet_01v8 ad=0.25 pd=2.25 as=0.8 ps=4.8 w=2 l=0.5
X27 VP a_2090_n400# a_2550_720# VP sky130_fd_pr__pfet_01v8 ad=0.4 pd=2.4 as=0.25 ps=2.25 w=2 l=0.5
.ends

.subckt SAR_validpin RST_N COMP PHIA ADC_OUT_B2 ADC_OUT_B3 ADC_OUT_B1 PHIB DAC_B0
+ DAC_B1 DAC_B2 DAC_B3 VALID ADC_OUT_B0 VP VN
XOR2_0 OR2_0/A OR2_0/B DAC_B1 VP VN OR2
XOR2_1 OR2_1/A OR2_1/B DAC_B2 VP VN OR2
X2_1_MUX_0 OR2_0/A COMP OR2_0/B DFFRR_1/D VP VN x2_1_MUX
XOR2_2 OR2_2/A OR2_2/B DAC_B3 VP VN OR2
X2_1_MUX_1 OR2_1/A COMP OR2_1/B DFFRR_0/D VP VN x2_1_MUX
X2_1_MUX_2 OR2_2/A COMP OR2_2/B DFFR_7/D VP VN x2_1_MUX
XDFFR_0 PHIA PHIB OR2_2/B OR2_1/B RST_N VP VN DFFR
XDFFRR_0 PHIA PHIB DFFRR_0/D OR2_1/A RST_N DAC_B0 VP VN DFFRR
XDFFR_1 PHIA PHIB OR2_1/B OR2_0/B RST_N VP VN DFFR
XDFFRR_1 PHIA PHIB DFFRR_1/D OR2_0/A RST_N DAC_B0 VP VN DFFRR
XDFFR_3 AND2_0/Y AND2_1/Y DFFR_3/D ADC_OUT_B0 RST_N VP VN DFFR
XDFFR_2 PHIA PHIB OR2_0/B DAC_B0 RST_N VP VN DFFR
XDFFR_4 AND2_0/Y AND2_1/Y OR2_0/A ADC_OUT_B1 RST_N VP VN DFFR
XDFFR_5 AND2_0/Y AND2_1/Y OR2_1/A ADC_OUT_B2 RST_N VP VN DFFR
XDFFR_6 AND2_0/Y AND2_1/Y OR2_2/A ADC_OUT_B3 RST_N VP VN DFFR
XDFFR_7 PHIA PHIB DFFR_7/D OR2_2/A RST_N VP VN DFFR
XAND2_0 PHIA DAC_B0 AND2_0/Y VP VN AND2
XDFFR_8 PHIA PHIB DAC_B0 VALID RST_N VP VN DFFR
XAND2_1 PHIB DAC_B0 AND2_1/Y VP VN AND2
XAND2_2 DAC_B0 COMP DFFR_3/D VP VN AND2
XDFFS_0 PHIA PHIB DAC_B0 OR2_2/B RST_N VP VN DFFS
.ends

.subckt shift5to1v8 A Y VP VN
X5v_pfet_1_2_0 VP 5v_pfet_1_2_1/G A VP x5v_pfet_1_2
X5v_pfet_1_2_1 VP Y 5v_pfet_1_2_1/G VP x5v_pfet_1_2
X5v_nfet_1_1_0 VN VN A 5v_pfet_1_2_1/G x5v_nfet_1_1
X5v_nfet_1_1_1 VN VN 5v_pfet_1_2_1/G Y x5v_nfet_1_1
.ends

.subckt x5v_pfet_1_1 S B G D
X0 D G S B sky130_fd_pr__pfet_g5v0d10v5 ad=1 pd=4 as=1 ps=4 w=1 l=1
.ends

.subckt strongarm Vinp Vinn clk outp outn VDD VSS
X5v_pfet_1_1_1 VDD VDD clk outn x5v_pfet_1_1
X5v_pfet_1_1_0 VDD VDD clk 5v_pfet_1_1_0/D x5v_pfet_1_1
X5v_pfet_1_1_2 VDD VDD clk outp x5v_pfet_1_1
X5v_pfet_1_1_3 VDD VDD clk 5v_pfet_1_1_3/D x5v_pfet_1_1
X5v_pfet_1_2_0 VDD outn outp VDD x5v_pfet_1_2
X5v_pfet_1_2_1 VDD outp outn VDD x5v_pfet_1_2
X5v_nfet_1_1_0 5v_pfet_1_1_0/D VSS outp outn x5v_nfet_1_1
X5v_nfet_1_1_2 VSS VSS clk 5v_nfet_1_1_3/S x5v_nfet_1_1
X5v_nfet_1_1_1 5v_nfet_1_1_3/S VSS Vinp 5v_pfet_1_1_0/D x5v_nfet_1_1
X5v_nfet_1_1_3 5v_nfet_1_1_3/S VSS Vinn 5v_pfet_1_1_3/D x5v_nfet_1_1
X5v_nfet_1_1_4 5v_pfet_1_1_3/D VSS outn outp x5v_nfet_1_1
.ends

.subckt inverter Y VP VN A
X0 Y A VN VN sky130_fd_pr__nfet_01v8 ad=0.4 pd=2.8 as=0.4 ps=2.8 w=1 l=0.5
X1 Y A VP VP sky130_fd_pr__pfet_01v8 ad=0.804 pd=4.82 as=0.804 ps=4.82 w=2.01 l=0.5
.ends

.subckt SARclkgen VDD PHIA PHIB CLK VSS
Xinverter_0 AND2_1/B VDD VSS PHIB inverter
Xinverter_1 AND2_0/B VDD VSS PHIA inverter
Xinverter_2 AND2_0/A VDD VSS CLK inverter
XAND2_0 AND2_0/A AND2_0/B PHIB VDD VSS AND2
XAND2_1 CLK AND2_1/B PHIA VDD VSS AND2
.ends

.subckt x5v_pfet_1_10 S G D B
X0 D G S B sky130_fd_pr__pfet_g5v0d10v5 ad=30 pd=26 as=30 ps=26 w=10 l=1
.ends

.subckt x5v_nfet_1_10 S G D B
X0 D G S B sky130_fd_pr__nfet_g5v0d10v5 ad=30 pd=26 as=30 ps=26 w=10 l=1
.ends

.subckt Tgate in out Cbar VDD VSS C
X5v_pfet_1_10_0 in Cbar out VDD x5v_pfet_1_10
X5v_nfet_1_10_0 out C in VSS x5v_nfet_1_10
.ends

.subckt SPDT in1 in2 out Cbar VDD VSS C
XTgate_0 in1 out Cbar VDD VSS C Tgate
XTgate_1 in2 out C VDD VSS Cbar Tgate
.ends

.subckt cap_m3_10_5 Top Bot
X0 Top Bot sky130_fd_pr__cap_mim_m3_1 l=5 w=10
.ends

.subckt cap_m3_20_10 Top Bot
X0 Top Bot sky130_fd_pr__cap_mim_m3_1 l=10 w=20
.ends

.subckt cap_m3_10_10 Top Bot
X0 Top Bot sky130_fd_pr__cap_mim_m3_1 l=10 w=10
.ends

.subckt cap_m3_5_5 Top Bot
X0 Top Bot sky130_fd_pr__cap_mim_m3_1 l=5 w=5
.ends

.subckt CDAC clkbar Vin b3 b2 b1 b0 clk Vout Vcm VSS VDD
XSPDT_4 VSS Vin SPDT_4/out clkbar VDD VSS clk SPDT
XSPDT_3 b0 Vin SPDT_3/out clkbar VDD VSS clk SPDT
Xcap_m3_10_5_0 SPDT_2/out Vout cap_m3_10_5
Xcap_m3_20_10_0 SPDT_0/out Vout cap_m3_20_10
Xcap_m3_10_10_0 SPDT_1/out Vout cap_m3_10_10
XTgate_0 Vout Vcm clk VDD VSS clkbar Tgate
Xcap_m3_5_5_0 SPDT_3/out Vout cap_m3_5_5
Xcap_m3_5_5_1 SPDT_4/out Vout cap_m3_5_5
XSPDT_0 b3 Vin SPDT_0/out clkbar VDD VSS clk SPDT
XSPDT_1 b2 Vin SPDT_1/out clkbar VDD VSS clk SPDT
XSPDT_2 b1 Vin SPDT_2/out clkbar VDD VSS clk SPDT
.ends

.subckt NOT5V X Y VDD VSS
X5v_pfet_1_2_0 VDD Y X VDD x5v_pfet_1_2
X5v_nfet_1_1_0 VSS VSS X Y x5v_nfet_1_1
.ends

.subckt ADC_validpin CLK CLK_comp RST_N Vin VALID ADC_OUT3 ADC_OUT2 ADC_OUT1 ADC_OUT0
+ VSS VDD1v8 VDD_5V
XSRLatch5V_0 SRLatch5V_0/S SRLatch5V_0/R SRLatch5V_0/Q SRLatch5V_0/NQ VDD_5V VSS SRLatch5V
Xshift1v8to5_0 shift1v8to5_0/A VDD1v8 CDAC_0/b1 VSS VDD_5V shift1v8to5
XpolyR_2_10_0 CDAC_0/Vcm VSS VSS polyR_2_10
Xshift1v8to5_1 shift1v8to5_1/A VDD1v8 CDAC_0/b0 VSS VDD_5V shift1v8to5
XpolyR_2_10_1 CDAC_0/Vcm VDD_5V VSS polyR_2_10
Xshift1v8to5_2 shift1v8to5_2/A VDD1v8 CDAC_0/b3 VSS VDD_5V shift1v8to5
Xshift1v8to5_3 shift1v8to5_3/A VDD1v8 CDAC_0/b2 VSS VDD_5V shift1v8to5
XSAR_validpin_0 RST_N shift5to1v8_0/Y SARclkgen_0/PHIA ADC_OUT2 ADC_OUT3 ADC_OUT1
+ SARclkgen_0/PHIB shift1v8to5_1/A shift1v8to5_0/A shift1v8to5_3/A shift1v8to5_2/A
+ VALID ADC_OUT0 VDD1v8 VSS SAR_validpin
Xshift5to1v8_0 SRLatch5V_0/NQ shift5to1v8_0/Y VDD1v8 VSS shift5to1v8
Xshift1v8to5_4 CLK_comp VDD1v8 strongarm_0/clk VSS VDD_5V shift1v8to5
Xstrongarm_0 CDAC_0/Vcm CDAC_0/Vout strongarm_0/clk SRLatch5V_0/S SRLatch5V_0/R VDD_5V
+ VSS strongarm
Xshift1v8to5_5 CLK VDD1v8 CLK5 VSS VDD_5V shift1v8to5
XSARclkgen_0 VDD1v8 SARclkgen_0/PHIA SARclkgen_0/PHIB CLK VSS SARclkgen
XCDAC_0 NOT5V_0/Y Vin CDAC_0/b3 CDAC_0/b2 CDAC_0/b1 CDAC_0/b0 CLK5 CDAC_0/Vout CDAC_0/Vcm
+ VSS VDD_5V CDAC
XNOT5V_0 CLK5 NOT5V_0/Y VDD_5V VSS NOT5V
.ends

